US05210290
2-[N-(4-Fluoro-2-trifluoromethylphenyl)sulfamoyl]acetic Acid
2.2 g (6.98 mmol) of 2-[N-(4-fluoro-2-trifluoromethylphenyl)sulfamoyl]acetic acid methyl ester is dissolved in 20 ml of dioxane, and the solution is combined with 10 ml (20 mmol) of 2N sodium hydroxide solution. The mixture heats up slightly, and saponification is completed after 10 minutes. The solution is neutralized with 2N hydrochloric acid under pH control and gently evaporated to dryness under vacuum. The residue is extracted with 30 ml of ethyl acetate, the solution is extracted once by shaking with 10 ml of water, the organic phase is dried over magnesium sulfate, filtered, and evaporated to dryness, thus obtaining 1.96 g (6.51 mmol)=93.2% of theory.

reactant | 2-[N-(4-fluoro-2-trifluoromethylphenyl)sulfamoyl]acetic acid methyl ester | 6.98 mmol, 2.2 g | COC(CS(NC1=C(C=C(C=C1)F)C(F)(F)F)(=O)=O)=O | C10H9F4NO4S
reactant | sodium hydroxide | 20 mmol, 2N, 10 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 2-[N-(4-Fluoro-2-trifluoromethylphenyl)sulfamoyl]acetic Acid | FC1=CC(=C(C=C1)NS(=O)(=O)CC(=O)O)C(F)(F)F | C9H7F4NO4S
